US07332605B2
(S)-8-amino-5,6,7,8-tetrahydroquinoline hydrochloride (23.4 kg, 106 mol) was dissolved in deionized water (60 L) and neutralized to pH 7 with a 50% sodium hydroxide solution (˜11.5 kg). The mixture was extracted with dichloromethane (126 kg). The pH of the aqueous layer was re-adjusted to 7 with 50% NaOH, and was extracted again with dichloromethane (126 kg). The dichloromethane fractions are then discarded. The pH of the aqueous layer was increased to 13 with 50% NaOH. The aqueous layer was then extracted with dichloromethane (2×126 kg). The combined organic layers were dried (sodium sulfate) and concentrated in vacuo to afford (S)-8-amino-5,6,7,8-tetrahydroquinoline (12.7 kg, 81% yield, purity: 96% by HPLC) as a dark brown oil. 1H NMR (CDCl3) δ 1.64-1.84 (m, 2H), 1.94-2.01 (m, 1H), 2.14-2.23 (m, 1H), 2.69-2.87 (m, 2H), 3.99 (dd, 1H, J=7.7, 5.3 Hz), 7.06 (dd, 1H, J=7.7, 4.4 Hz), 7.36 (d, 1H, J=7.5 Hz), 8.41 (d, 1H, J=4.4 Hz).

reactant | (S)-8-amino-5,6,7,8-tetrahydroquinoline hydrochloride | 106 mol, 23.4 kg | Cl.N[C@H]1CCCC=2C=CC=NC12
reactant | sodium hydroxide | ˜11.5 kg | [OH-].[Na+]
solvent | water | 60 L | O | H2O
product | (S)-8-amino-5,6,7,8-tetrahydroquinoline | 12.7 kg, 81% yield | N[C@H]1CCCC=2C=CC=NC12 | C9H12N2
